US07259163B2
4Cyano-2-vinylpyridine
A mixture of 4-cyanopyridine-2-carboxaldehyde (0.916 g, 6.93 mmol), methyltriphenylphosphonium bromide (2.48 g, 6.93 mmol), potassium carbonate (1.2 g, 8.66 mmol), 1,4 dioxan (9.5 mL) and water (0.13 mL) was heated under reflux for 5 hours. The mixture was diluted with water (30 mL) and ethyl acetate (70 mL) and the organic layer separated. The aqueous phase was further extracted with ethyl acetate (2×40 mL), the organic fractions combined and dried over magnesium sulphate. After removing the solvent, the residue was purified by silica column chromatography using a Biotage cartridge and eluting with cyclohexane/ethyl acetate (7:3 v/v), then (1:1 v/v). This gave the title compound as an oil.

reactant | 4-cyanopyridine-2-carboxaldehyde | 6.93 mmol, 0.916 g | C(#N)C1=CC(=NC=C1)C=O | C7H4N2O
reactant | potassium carbonate | 8.66 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4 dioxan | 9.5 mL | O1CCOCC1 | C4H8O2
catalyst | methyltriphenylphosphonium bromide | 6.93 mmol, 2.48 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.13 mL | O | H2O
product | 4Cyano-2-vinylpyridine | C(#N)C1=CC(=NC=C1)C=C | C8H6N2
